US09029360B2
Step 1: 2-Amino-4,5,7,8-tetrahydro-thiazolo[4,5-d]azepine-6-carboxylic acid tert-butyl ester
2.5 g (7.55 mmol) 5,6,7,8-Tetrahydro-4H-thiazolo[4,5-d]azepin-2-ylamine dihydrobromide, 1.83 g (8.31 mmol) di-tert.butyl-dicarbonat, 2.1 mL (15.1 mmol) in 60 mL tetrahydrofuran (THF) were stirred at 5° C. for 30 min and afterwards stirred at RT over night. The solvent was removed, the residue dissolved in ethyl acetate and washed several times with water. The aqueous layer was washed with ethyl acetate. The combined organic layers were dried, filtered and evaporated to dryness. The residue war cristallized with petrol ether. Yield: 1.20 g (59% of theory). ESI-MS: m/z=270 (M+H)+.

reactant | 5,6,7,8-Tetrahydro-4H-thiazolo[4,5-d]azepin-2-ylamine dihydrobromide | 7.55 mmol, 2.5 g | Br.Br.S1C(=NC=2CCNCCC21)N
reactant | di-tert.butyl-dicarbonat | 8.31 mmol, 1.83 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 2-Amino-4,5,7,8-tetrahydro-thiazolo[4,5-d]azepine-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)SC(=N2)N | C12H19N3O2S
